US04435404
Into 100 g of cyclohexylamine was added 41 g of ethylene chloride and the mixture was stirred at about 160° C. for 10 hours. After cooling the reaction mixture to a room temperature, 100 ml of 10 N-NaOH aqueous solution was added to the reaction mixture and the organic layer was obtained by using a separating funnel and thus obtained organic layer was dried with KOH. KOH was removed by filtration and the mother liquor was distilled under a reduced pressure. 48 Grams of N-(2-hydroxyethyl)cyclohexylamine was obtained as an oily substance. Boiling point: 132°-135° C. (18 mmHg).

reactant | cyclohexylamine | 100 g | C1(CCCCC1)N | C6H13N
reactant | NaOH | [OH-].[Na+]
reactant | ethylene chloride | 41 g | C(CCl)Cl | C2H4Cl2
product | N-(2-hydroxyethyl)cyclohexylamine | OCCNC1CCCCC1 | C8H17NO
